US05834468
To a solution of 4-carboxyphenethyl triphenylphosphonium bromide (11.2 g, 22.8 mmol) in THF (200 ml) under argon, was added a 1M solution of lithium hexamethyldisilazide (50 ml) in THF at 20° C., giving a deep red colour. After stirring for 30 minutes, the reaction was treated with a solution of 2-bromobenzaldehyde (4.0 g, 21.6 mmol) in THF (15 ml) and stirred for a further 30 minutes at 20° C. The solution was poured onto a stirred mixture of water (100 ml) and ether (100 ml). The layers were separated and the aqueous portion washed again with ether (100 ml), acidified with 1N HCl and extracted with ether (100 ml). The ether extracts were dried over anhydrous magnesium sulphate and "flashed" through a pad of silica to remove impurities, rinsing with further portions of ether. The filtrates were evaporated to give 4-[3-(2-bromophenyl)prop-2-en-1-yl]benzoic acid (6.1 g) as a yellow gum, which slowly solidified.

reactant | 4-carboxyphenethyl triphenylphosphonium bromide | 22.8 mmol, 11.2 g | [Br-].C(=O)(O)C1=CC=C(CC[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1
reactant | lithium hexamethyldisilazide | 50 ml | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | 2-bromobenzaldehyde | 21.6 mmol, 4.0 g | BrC1=C(C=O)C=CC=C1 | C7H5BrO
reactant | water | 100 ml | O | H2O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | ether | 100 ml | CCOCC | C4H10O
product | 4-[3-(2-bromophenyl)prop-2-en-1-yl]benzoic acid | 6.1 g | BrC1=C(C=CC=C1)C=CCC1=CC=C(C(=O)O)C=C1 | C16H13BrO2
